US07553969B1
To a solution of Z-N-Me-Val-OH (914 mg, 3.45 mmol), 2-(3-t-butyl-4-hydroxyphenyl)-1-(1,3,4-oxadiazol-2-yl)ethylamine (0.75 g, 2.87 mmol) and CMPI (881 mg, 3.45 mmol) in THF (30 ml), TEA (0.96 ml) was added under cooling with ice and stirred at room temperature for 2 hours. The reaction mixture was mixed with water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated to remove the solvent under reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: ethyl acetate:n-hexane=1:1), giving 2-benzyloxycarbonylamino-3-methylbutyric acid 2-(3-t-butyl-4-hydroxyphenyl)-1-(1,3,4-oxadiazol-2-yl)ethylamide (1.28 g, 88%).

reactant | Z-N-Me-Val-OH | 3.45 mmol, 914 mg | C(=O)(OCC1=CC=CC=C1)N([C@@H](C(C)C)C(=O)O)C | C14H19NO4
reactant | 2-(3-t-butyl-4-hydroxyphenyl)-1-(1,3,4-oxadiazol-2-yl)ethylamine | 2.87 mmol, 0.75 g | C(C)(C)(C)C=1C=C(C=CC1O)CC(C=1OC=NN1)N | C14H19N3O2
reactant | water | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-benzyloxycarbonylamino-3-methylbutyric acid 2-(3-t-butyl-4-hydroxyphenyl)-1-(1,3,4-oxadiazol-2-yl)ethylamide | 1.28 g, 88% | C(C)(C)(C)C=1C=C(C=CC1O)CC(C=1OC=NN1)NC(C(C(C)C)NC(=O)OCC1=CC=CC=C1)=O | C27H34N4O5
